US04404356
N-(2-Hydroxyphenyl)-N',N'-diethylurea
Benzoxazolinone (1 mole) was stirred with 2 moles of diethylamine (dissolved in industrial alcohol) at 50° C. for 48 hours, then the alcohol and excess of diethylamine were distilled off under reduced pressure at below 60° C. The residue was taken up in acetone, the desired product was precipitated by adding water and then it was filtered off and dried under reduced pressure at 80° C.

reactant | Benzoxazolinone | 1 mole | C=1C=CC2=C(C1)NC(=O)O2 | C7H5NO2
reactant | diethylamine | 2 moles | C(C)NCC | C4H11N
product | N-(2-Hydroxyphenyl)-N',N'-diethylurea | OC1=C(C=CC=C1)NC(=O)N(CC)CC | C11H16N2O2
